US08633173B2
(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (2.00 g, 8.60 mmol), and 3-methoxy-benzylamine (1.26 mL, 9.72 mmol) in a manner analogous to Example 2d. Product was isolated as an off-white solid, (1.90 g. 77%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.08 (d, J=6.4 Hz, 1H), 7.24 (m, 2H), 6.96 (s, 3H), 6.79 (d, J=8.0 Hz, 1H), 6.41 (d, J=8.0 Hz, 1H), 4.44 (d, J=5.9 Hz, 2H), 3.71 (s, 3H).

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 8.60 mmol, 2.00 g | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 3-methoxy-benzylamine | 9.72 mmol, 1.26 mL | COC=1C=C(CN)C=CC1 | C8H11NO
product | (2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine | ClC1=NN2C(C(=CC=C2)NCC2=CC(=CC=C2)OC)=N1 | C14H13ClN4O
